data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
995,1084,[CH3:13][NH:14][C:15](=[O:16])[C:17]([C:18]([CH3:19])=[O:20])=[N+:21]([CH3:22])[O-:23].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:18]([CH3:19])=[O:20])[N:21]([CH3:22])[O:23]2,water,298.15,45.91827094543533,12.480347878348162
2727,3031,[CH3:14][O:15][C:16](=[O:17])[C:18]([CH3:19])=[N+:20]([CH3:21])[C-:22]([C:23]#[N:24])[C:25]([CH3:26])=[O:27].[N:1]#[C:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:18]([C:16]([O:15][CH3:14])=[O:17])([CH3:19])[N:20]([CH3:21])[C:22]2([C:23]#[N:24])[C:25]([CH3:26])=[O:27],water,298.15,28.62522763740375,-29.196339588918228
2117,2350,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20](=[O:21])[O:22][CH3:23])[N+:24]([CH3:25])=[C:26]([CH3:27])[C:28](=[O:29])[O:30][CH3:31].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:26]([CH3:27])([C:28](=[O:29])[O:30][CH3:31])[N:24]([CH3:25])[C:19]3([C:17]([NH:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][CH3:23],water,298.15,26.46226433867273,-36.457914372566826
2505,2784,[CH3:13][O:14][C:15](=[O:16])[C:17](=[NH+:18][C-:19]([CH3:20])[C:21](=[O:22])[O:23][CH3:24])[C:25]([CH3:26])=[O:27].[N:1]#[C:2][CH:3]1[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[N:1]#[C:2][CH:3]1[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:19]([CH3:20])([C:21](=[O:22])[O:23][CH3:24])[NH:18][C:17]2([C:15]([O:14][CH3:13])=[O:16])[C:25]([CH3:26])=[O:27],water,298.15,18.37247662212701,-37.57633853087462
4209,4814,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][c:16]([C:17]([CH3:18])=[O:19])[o:20][c:21]1=[O:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[O:15][C:16]1([C:17]([CH3:18])=[O:19])[O:20][C:21]2=[O:22],water,298.15,14.338129827487204,-15.670826805140797
4815,5497,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C-:19]([CH3:20])[NH+:21]=[C:22]([C:23]#[N:24])[C:25]#[N:26]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]([C:17]([O:16][CH3:15])=[O:18])([CH3:20])[NH:21][C:22]2([C:23]#[N:24])[C:25]#[N:26],water,298.15,24.92236633857045,1.6544927257344706
3497,3988,[CH3:10][C:11](=[O:12])[C:13](=[O+:14][O-:15])[C:16]([CH3:17])=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])([C:16]([CH3:17])=[O:18])[O:14][O:15]1,water,298.15,14.455041940432787,-26.83613213021017
4561,5206,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([CH3:12])=[NH+:13][C-:14]([C:15](=[O:16])[NH:17][CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([CH3:12])[NH:13][C:14]1([C:15](=[O:16])[NH:17][CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,25.26100519251779,-10.217342758263786
4915,5599,[CH3:9][O:10][C:11](=[O:12])[C-:13]([NH+:14]=[C:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[C:24](=[O:25])[O:26][CH3:27].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:24](=[O:25])[O:26][CH3:27])[NH:14][C:15]1([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,21.99987200184641,-12.682937249892206
3303,3742,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[CH:10]=[O+:11][C-:12]([CH3:13])[C:14]([CH3:15])=[O:16]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:12]([CH3:13])([C:14]([CH3:15])=[O:16])[O:11][CH:10]1[C:8]([CH3:7])=[O:9],water,298.15,10.59042755153181,-41.36685927702985
2661,2954,[CH2-:21][N+:22]([CH3:23])=[C:24]([C:25]([CH3:26])=[O:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([Br:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([Br:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:24]([C:25]([CH3:26])=[O:27])([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[N:22]([CH3:23])[CH2:21]2,water,298.15,15.419435075146852,-39.18939665167616
